US04853384
A solution of 5.0 g of 4-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpiperidine in 50 ml of benzene was treated with a solution of 0.9 g of methyl isocyanate in 20 ml of benzene over a period of ten minutes. The reaction mixture was then stirred at ambient temperature for two hours. Evaporate of the volatiles afforded a solid which was purified by means of high pressure liquid chromatography (silica gel; elution with 50% ethyl acetate/dichloromethane) to yield 4.0 g (69%) of 1-(N-methylamino)carbonyl-4-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpiperidine, m.p. 87°-89° C.

reactant | 4-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpiperidine | 5.0 g | FC1=C(OC2(CCNCC2)C2=CC=CC=C2)C(=C(C(=C1F)F)F)F | C17H14F5NO
reactant | methyl isocyanate | 0.9 g | CN=C=O | C2H3NO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 1-(N-methylamino)carbonyl-4-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpiperidine | 4.0 g, 69% | CNC(=O)N1CCC(CC1)(C1=CC=CC=C1)OC1=C(C(=C(C(=C1F)F)F)F)F | C19H17F5N2O2
